US05308837
Step B: Ethyl 2,2-Difluoro-3-Tetrahydropyranyloxypropionate
Dihydropyrane (2 ml, 22 mmol) was added to a solution of ethyl 2,2-difluoro-3-hydroxypropionate (3.1 g, 20 mmol) and pyridinium p-toluenesulfonate (0.25 g, 1 mmol) in anhydrous dichloromethane (50 ml). The mixture was stirred overnight at room temperature and the desired compound ethyl 2,2-difluoro-3-tetrahydropyranyloxypropionate was obtained by flash chromatography on silica gel (ethyl acetate:hexane; 15:85) (4 g, 80%).

reactant | Dihydropyrane | 22 mmol, 2 ml | O1CCCC=C1 | C5H8O
reactant | ethyl 2,2-difluoro-3-hydroxypropionate | 20 mmol, 3.1 g | FC(C(=O)OCC)(CO)F | C5H8F2O3
reactant | pyridinium p-toluenesulfonate | 1 mmol, 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 2,2-difluoro-3-tetrahydropyranyloxypropionate | FC(C(=O)OCC)(COC1OCCCC1)F | C10H16F2O4
